* C:\Users\Jason\Desktop\Working Circuts\TRAN_V-Sine_V_DC_R+(R__L)+R.asc
R1 N002 N001 10k
R2 N004 0 10k
L1 N002 N004 1m
V1 N003 0 5
V2 N001 N003 SINE(0 5 100)
.tran .0025
.backanno
.end
